US04767760
To a stirred mixture of 68 parts of 1-chloro-2-methoxy-4-nitrobenzene, 230 parts of a sodium hydroxide solution 50%, 5 parts of N,N,N-triethylbenzenemethanaminium chloride and 360 parts of tetrahydrofuran is added dropwise, during a 5 minutes period, a solution of 43.2 parts of 4-chlorobenzeneacetonitrile in 90 parts of tetrahydrofuran. Upon completion, stirring is continued for 4 hours at 60° C. The reaction mixture is poured into 2000 parts of crushed ice. The whole is acidified with concentrated hydrochloric acid. The layers are separated. The aqueous phase is extracted with dichloromethane. The combined extracts are dried, filtered and evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding α-(4-chlorophenyl)-2-methoxy-4-nitrobenzeneacetonitrile.

reactant | 1-chloro-2-methoxy-4-nitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-chlorobenzeneacetonitrile | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | hydrochloric acid | Cl | ClH
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-(4-chlorophenyl)-2-methoxy-4-nitrobenzeneacetonitrile | ClC1=CC=C(C=C1)C(C#N)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C15H11ClN2O3
